US07452892B2
B. Preparation of 7,8-bis(4-chlorophenyl)-5-methyl-2-(4-(trifluoromethyl)benzyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
The title compound was prepared by coupling 7,8-bis(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one with 4-trifluoromethylbenzyl bromide in a manner analogous to that in which 1-(7,8-bis(4-chlorophenyl)-3-oxo-2-(4-(trifluoromethyl)benzyl)-2,3-dihydro-[1,2,4]triazolo[4,3-c]pyrimidin-5-yl)-3-(ethylamino)azetidine-3-carboxamide was prepared. HPLC/MS: retention time=4.485 min, [M+H]30 =529.

reactant | 7,8-bis(4-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)C)C(NN2)=O)C2=CC=C(C=C2)Cl | C18H12Cl2N4O
reactant | 4-trifluoromethylbenzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 1-(7,8-bis(4-chlorophenyl)-3-oxo-2-(4-(trifluoromethyl)benzyl)-2,3-dihydro-[1,2,4]triazolo[4,3-c]pyrimidin-5-yl)-3-(ethylamino)azetidine-3-carboxamide | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)N1CC(C1)(C(=O)N)NCC)C(N(N2)CC2=CC=C(C=C2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C31H26Cl2F3N7O2
product | 7,8-bis(4-chlorophenyl)-5-methyl-2-(4-(trifluoromethyl)benzyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)C)C(N(N2)CC2=CC=C(C=C2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C26H17Cl2F3N4O
